US07465726B2
4-[4-(1H-Indazol-5ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-1-(2-methoxyethyl)-1H-pyridin-2-one
A mixture of (1H-indazol-5-yl)-(6-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine (0.076 g), 1-(2-methoxy-ethyl)-2-oxo-1,2-dihydro-pyridine-4-boronic acid (36 mg), PdCl2(PPh3)2 (7 mg) end potassium carbonate (76 mg) in dioxane/wawr (4:1) (5 mL) was heated to 100° C. for 48 h. Purification via chromatograpby afforded tJm title compound as a pale yellow solid. δH 3.30 (3H, s), 3.62 (2H, t), 4.18 (2H, t), 5.99 (1H, dd), 6.89 (1H, d), (7.27 (1H, s), 7.57 (2H, d), 7.69 (2H, m), 8.09 (1H, s), 8.16 (1H, s), 8.18 (1H, s) and 9.67 (1H, s). MH+ 402.13.

reactant | (1H-indazol-5-yl)-(6-iodo-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-amine | 0.076 g | N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)I | C13H9IN6
reactant | 1-(2-methoxy-ethyl)-2-oxo-1,2-dihydro-pyridine-4-boronic acid | 36 mg | COCCN1C(C=C(C=C1)B(O)O)=O | C8H12BNO4
reactant | potassium carbonate | 76 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 7 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[4-(1H-Indazol-5ylamino)-7H-pyrrolo[2,3-d]-pyrimidin-6-yl]-1-(2-methoxyethyl)-1H-pyridin-2-one | N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C2=CC(N(C=C2)CCOC)=O | C21H19N7O2
